US04746673
Preparation of 1-(p-chlorophenoxy)-3,3-dimethyl-2-butanone
A 12.8 g quantity of p-chlorophenol, 13.4 g of 1-chloro-3,3-dimethyl-2-butanone, 13.8 g of anhydrous potassium carbonate and 100 ml of acetonitrile were placed into a 200-ml egg plant type flask and refluxed for 8 hours. The resulting potassium chloride was filtered off from the reaction mixture, and the filtrate was concentrated in a vacuum to obtain crude crystals, which were recrystallized from n-hexane, giving 16.0 g of the above-identified desired compound, m.p. 62°-63° C.

reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 1-chloro-3,3-dimethyl-2-butanone | 13.4 g | ClCC(C(C)(C)C)=O | C6H11ClO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(p-chlorophenoxy)-3,3-dimethyl-2-butanone | 16.0 g | ClC1=CC=C(OCC(C(C)(C)C)=O)C=C1 | C12H15ClO2
